2139-12-19 10:19:00 Physician Attending Progress Note
Chief Complaint: septic shock, resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - ABD CT without perf
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2139-12-17**] 11:10 PM
   Piperacillin/Tazobactam (Zosyn) - [**2139-12-18**] 12:23 PM
   Levofloxacin - [**2139-12-19**] 04:00 AM
   Clindamycin - [**2139-12-19**] 04:16 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Norepinephrine - 0.19 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2139-12-19**] 07:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-12-19**] 10:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37
C (98.6
   HR: 79 (75 - 101) bpm
   BP: 95/49(67) {79/39(55) - 115/61(82)} mmHg
   RR: 32 (0 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
   CVP: 8 (8 - 13)mmHg
   CO/CI (Fick): (3.9 L/min) / (2.6 L/min/m2)
   Bladder pressure: 14 (14 - 32) mmHg
   Mixed Venous O2% Sat: 64 - 64
                                Total In:
                                                                  6,798 mL
                                                                    534 mL
   PO:
                                TF:
   IVF:
                                                                  5,898 mL
                                                                    534 mL
   Blood products:
   Total out:
                                                                  1,217 mL
                                                                    245 mL
   Urine:
                                                                    617 mL
                                                                    145 mL
   NG:
                                                                    600 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  5,581 mL
                                                                    289 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (320 - 350) mL
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 34 cmH2O
   Plateau: 30 cmH2O
   Compliance: 23.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.34/28/147/17/-8
   Ve: 11.8 L/min
   PaO2 / FiO2: 367
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.7 g/dL
   79 K/uL
   88 mg/dL
   3.4 mg/dL
   17 mEq/L
   4.1 mEq/L
   58 mg/dL
   106 mEq/L
   133 mEq/L
   28.3 %
   10.6 K/uL
        [image002.jpg]
                             [**2139-12-17**]  01:20 PM
                             [**2139-12-17**]  05:31 PM
                             [**2139-12-17**]  09:23 PM
                             [**2139-12-18**]  03:15 AM
                             [**2139-12-18**]  03:30 AM
                             [**2139-12-18**]  06:29 AM
                             [**2139-12-18**]  11:00 AM
                             [**2139-12-18**]  06:27 PM
                             [**2139-12-18**]  09:47 PM
                             [**2139-12-19**]  03:23 AM
   WBC
   7.2
   8.4
   10.6
   Hct
   32.1
   31.7
   28.3
   Plt
   108
   108
   79
   Cr
   2.6
   2.5
   2.7
   3.4
   TCO2
   17
   19
   21
   19
   18
   16
   Glucose
   55
   86
   87
   114
   88
   Other labs: PT / PTT / INR:14.3/42.6/1.2, ALT / AST:1192/1392, Alk Phos
   / T Bili:152/0.9, Amylase / Lipase:55/19, Differential-Neuts:81.0 %,
   Band:7.0 %, Lymph:5.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:2.1 mmol/L,
   LDH:816 IU/L, Ca++:7.6 mg/dL, Mg++:2.2 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 PNEUMONIA, OTHER
   1. Shock:  Likely septic given high initial mixed venous SvO2, fever,
   bandemia suggest infection.  Recovered from low SCvo2 with aggressive
   IVF and switching to levophed.
   Plan: run CVP 10-12, check cortisol, HCT above 30,
   Possible sources
    1.  PNA
 follow up BAL
    2.  Endocarditis
 bandemia, back pain, prelim Echo without IVF
    3.  Urosepsis: + UA, cover, no hydro by abd US
    3. Occult Abd abscess: CT showed large GB, discussed with Dr [**Last Name (STitle) 2211**]
   of surgery
 plan for perc choly tibe
 though intial labs not support
   biliry sepsis perhaps smoldering and with referred shoulder pain as
   initial insult. Consult OIR
   ARDS: Respiratory failure:  hypoxemic with infiltrates consistent with
   pneumonia evolving ARDS.  Low tidal volume ventilation, wean PEEP and
   FIO2 as possible. He does have a restrictive chest wall defect due to
   chest surgery as child. Try for eso balloon to determine optimal PEEP.
   Acute renal failure:  in setting of shock, likely ATN, still urinating
   but acid base status may push for early CVVH. Discuss with  Nephrology.
   Abnormal liver function test:  likely shock, hep serologies negative
   Remaining issues as per Housestaff notes.
   ICU Care
   Nutrition: NPO, call for TPN
   Glycemic Control:
   Lines:
   Multi Lumen - [**2139-12-16**] 10:40 PM
   Arterial Line - [**2139-12-17**] 01:38 AM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: PPI
   VAP: HOB chlorhex
   Communication:  with wife and [**Name2 (NI) 1506**]
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   I had a 60 min family meeting with wife and also spoke on phone with
   her sister (anesthesiologist). All ?s answered and course reviewed to
   date.

2139-12-26 09:55:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Respiratory Failure
   Renal Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PAN CULTURE - At [**2139-12-25**] 09:09 PM
 FEVER - 101.4
F - [**2139-12-25**] 10:00 PM
   -Persistent tachypnea and paralyzed overnight with continued
   "dys-syncrhrony"
   CT--Increased effusions, diffuse ground glass opacities and
   consolidation with possible embolic phenomenon of kidney and spleen.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2139-12-24**] 12:05 AM
   Clindamycin - [**2139-12-24**] 03:26 AM
   Vancomycin - [**2139-12-25**] 10:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2139-12-26**] 05:21 AM
   Ciprofloxacin - [**2139-12-26**] 05:52 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 140 mcg/hour
   Norepinephrine - 0.06 mcg/Kg/min
   Cisatracurium - 0.3 mg/Kg/hour
   Other ICU medications:
   Fentanyl - [**2139-12-26**] 02:18 AM
   Midazolam (Versed) - [**2139-12-26**] 02:19 AM
   Heparin Sodium (Prophylaxis) - [**2139-12-26**] 08:37 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Cardiovascular: Tachycardia
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2139-12-26**] 09:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 36.6
C (97.9
   HR: 108 (92 - 124) bpm
   BP: 171/76(109) {88/38(57) - 171/76(228)} mmHg
   RR: 29 (12 - 37) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 62.7 kg (admission): 52.7 kg
   Height: 60 Inch
   CVP: 14 (12 - 14)mmHg
   Total In:
                                                                  2,349 mL
                                                                  1,878 mL
   PO:
   TF:
                                                                    264 mL
   IVF:
                                                                  1,965 mL
                                                                  1,072 mL
   Blood products:
   Total out:
                                                                  1,025 mL
                                                                    695 mL
   Urine:
                                                                    930 mL
                                                                    595 mL
   NG:
                                                                      5 mL
   Stool:
   Drains:
                                                                     90 mL
                                                                    100 mL
   Balance:
                                                                  1,324 mL
                                                                  1,183 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 310 (310 - 310) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 37 cmH2O
   Plateau: 34 cmH2O
   Compliance: 14.8 cmH2O/mL
   SpO2: 100%
   ABG: 7.34/49/114/26/0
   Ve: 9.6 L/min
   PaO2 / FiO2: 228
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube, OG
   tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: )
   Abdominal: Distended, Firm
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   312 K/uL
   96 mg/dL
   2.0 mg/dL
   26 mEq/L
   4.5 mEq/L
   45 mg/dL
   98 mEq/L
   133 mEq/L
   23.8 %
   15.4 K/uL
         [image002.jpg]
                             [**2139-12-24**]  10:48 PM
                             [**2139-12-25**]  04:13 AM
                             [**2139-12-25**]  04:30 AM
                             [**2139-12-25**]  08:57 AM
                             [**2139-12-25**]  05:10 PM
                             [**2139-12-25**]  05:22 PM
                             [**2139-12-25**]  08:51 PM
                             [**2139-12-26**]  02:58 AM
                             [**2139-12-26**]  03:31 AM
                             [**2139-12-26**]  06:58 AM
   WBC
   12.4
   15.4
   Hct
   25.1
   23.8
   Plt
   248
   312
   Cr
   1.7
   1.8
   2.0
   TCO2
   27
   28
   28
   28
   25
   28
   28
   Glucose
   101
   109
   125
   98
   96
   Other labs: PT / PTT / INR:13.1/29.0/1.1, ALT / AST:251/212, Alk Phos /
   T Bili:244/0.7, Amylase / Lipase:25/11, Differential-Neuts:91.0 %,
   Band:2.0 %, Lymph:6.6 %, Mono:2.0 %, Eos:0.1 %, Fibrinogen:674 mg/dL,
   Lactic Acid:1.9 mmol/L, LDH:380 IU/L, Ca++:7.3 mg/dL, Mg++:1.9 mg/dL,
   PO4:6.7 mg/dL
   Fluid analysis / Other labs: 7.34/39/128
   Imaging: CXR-He has bilateral catheters in reasonable position.
   Bilateral infiltrates noted.  He does have difficulty to visualize ETT
   location
he does have ETT beyond thoracic inlet.
   CT Scan--Right upper lobe and right middle lobe are with some
   aeration.  Left side with diffuse infiltrates and consolidation.  Right
   greater than left effusion but both are impressive.
   Microbiology: No new positive culture results
   Assessment and Plan
   41 yo male presenting with sepsis and hypoxemic respiratory failure
   without clear source identified.  He now has continued support with
   pressors, ventilator and CVVH.  Of note is that he had increased
   difficulty with respiratory distress overnight and was given paralytics
   overnight.  Pressors have returned as well.  He has additional issues
   of persistent fevers and mild lactic acidosis.
   1)Respiratory Failure-FIO2 remains at 50%.  He does have impressively
   poor compliance at 15 with large right sided effusions.  He was unable
   to maintain adequate ventilation and was paralyzed last pm.  We will
   continue with CMV support.  The decision to tap the pleural effusion is
   a tough one with competing interests with chance of improving
   compliance to the point of allowing effective spontaneous respiration
   being potentially favorable.  In addition will have opportunity for
   diagnostic yield in the setting of recurrent and persistent fevers.
   -Thoracentesis
   -D/C Paralytics
   -More to PSV as possible
   2)Sepsis-He did have recurrent hypotension overnight in the setting of
   paralytics. Is a competing interest of needing to effect diuresis.
   -Continue ABX
Vanco/Cipro/ZOsyn
   -Will check pleural fluid for infection
   -IVF as needed
   -Look to wean pressors
   -Will pursue TEE given embolic phenomena on CT scan
   3)Acute Renal Failure-
   -HD when hemodynamically able
   -If volume overload is at issue would move to CVVH in the setting of
   persistent hypotension
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 ELECTROLYTE & FLUID DISORDER, OTHER
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 PNEUMONIA, OTHER
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2139-12-26**] 05:01 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2139-12-16**] 10:40 PM
   Dialysis Catheter - [**2139-12-20**] 08:00 PM
   Arterial Line - [**2139-12-21**] 06:53 PM
   20 Gauge - [**2139-12-26**] 12:23 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill